US04978663
N-[1-(1,6-Dihydro-6-oxo-3pyridinyl)cyclohexyl]propionamide
A solution of propionic anhydride (8.89 g), triethylamine (13.8 g), 4-(N,N-dimethylamino)pyridine (47 mg) and 5-(1-aminocyclohexyl)-2(1H)-pyridinone hydrochloride (7.81 g) in 170 ml of dichloromethane was stirred at room temperature for 4 hours. The resulting mixture was diluted with water and extracted with dichloromethane. The combined organic layers were washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, filtered and concentrated to give 6.1 g of a solid. Recrystallization from ethanol gave 4.6 g of product as crystals, m.p. 227°-228° C.

reactant | propionic anhydride | 8.89 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | triethylamine | 13.8 g | C(C)N(CC)CC | C6H15N
reactant | 5-(1-aminocyclohexyl)-2(1H)-pyridinone hydrochloride | 7.81 g | Cl.NC1(CCCCC1)C=1C=CC(NC1)=O
catalyst | 4-(N,N-dimethylamino)pyridine | 47 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[1-(1,6-Dihydro-6-oxo-3pyridinyl)cyclohexyl]propionamide | 6.1 g | O=C1C=CC(=CN1)C1(CCCCC1)NC(CC)=O | C14H20N2O2
